US06900216B2
A mixture of 2-bromo-1-(4-fluorobenzo[b]thiophen-2-yl)propan-1-one (0.67 g), 2-imidazolidinethione (0.24 g), acetic acid (10 ml) and ethanol (5 ml) was heated under reflux for 2 hours then cooled to 20° C. The mixture was concentrated in vacuo and the resulting solid was collected by filtration, washed with ethanol (5 ml) and dried in vacuo at 60° C. for 2 hours to give 3-(4-fluorobenzo[b]thiophen-2-yl)-2-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (0.82 g) as beige solid, m.p. 224-226° C.

reactant | 2-bromo-1-(4-fluorobenzo[b]thiophen-2-yl)propan-1-one | 0.67 g | BrC(C(=O)C1=CC2=C(S1)C=CC=C2F)C | C11H8BrFOS
reactant | 2-imidazolidinethione | 0.24 g | N1C(NCC1)=S | C3H6N2S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-(4-fluorobenzo[b]thiophen-2-yl)-2-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 0.82 g | Br.FC1=CC=CC=2SC(=CC21)C=2N1C(SC2C)=NCC1 | InChI=1S/C14H11FN2S2.BrH/c1-8-13(17-6-5-16-14(17)18-8)12-7-9-10(15)3-2-4-11(9)19-12;/h2-4,7H,5-6H2,1H3;1H
